US03954764
10.6 g. of 10-chloro-8-fluoro-10,11-dihydro-3-methyldibenzo[b,f]thiepin are heated at reflux together with 200 ml. of chloroform and 22.8 g. of 3-[2-(1-piperazinyl)-ethyl]-2-oxazolidinone for 30 hours. Thereafter, the mixture is evaporated under reduced pressure, and the residue is worked up as described in Example 5. The insoluble base is recrystallized from ethanol, whereby there is obtained 3-{2-[4-(8-fluoro-10,11-dihydro-3-methyl-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl}-2-oxazolidinone which melts at 173°-175°C. The maleate crystallizes from acetone/ether and has a melting point of 147°-149°C.

reactant | 10-chloro-8-fluoro-10,11-dihydro-3-methyldibenzo[b,f]thiepin | ClC1CC2=C(SC3=C1C=C(C=C3)F)C=C(C=C2)C | C15H12ClFS
reactant | 3-[2-(1-piperazinyl)-ethyl]-2-oxazolidinone | N1(CCNCC1)CCN1C(OCC1)=O | C9H17N3O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-{2-[4-(8-fluoro-10,11-dihydro-3-methyl-dibenzo[b,f]thiepin-10-yl)-1-piperazinyl]-ethyl}-2-oxazolidinone | FC=1C=CC2=C(C(CC3=C(S2)C=C(C=C3)C)N3CCN(CC3)CCN3C(OCC3)=O)C1 | C24H28FN3O2S
